US07572607B2
The addition of alanine to indole-3-pyruvic acid produces monatin, and this reaction can be performed synthetically with a Grignard or organolithium reagent.

reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | indole-3-pyruvic acid | N1C=C(C2=CC=CC=C12)CC(C(=O)O)=O | C11H9NO3
product | monatin | C1=CC=C2C(=C1)C(=CN2)C[C@](C[C@@H](C(=O)O)N)(C(=O)O)O | C14H16N2O5
